US09193750B2
Preparation of 3-(4-isocyanatophenyl)-1-(4-(perfluoroethoxy)-phenyl)-1H-1,2,4-triazole
A 250 mL, three-neck flask, fitted with magnetic stirring, air condenser, temperature probe and nitrogen inlet, was charged with 4-(1-(4-(perfluoroethoxy)-phenyl)-1H-1,2,4-triazol-3-yl)benzoyl azide (5.00 g, 11.2 mmol) and toluene (100 mL). The brown solution was heated to 100° C. slowly and allowed to stir for 1 hour. Analysis of crude reaction mixture by LCMS shows the desired isocyanate. The reaction was cooled to 25° C. and the solvent removed by rotary evaporation to give a solid. The solid was dissolved in dichloromethane and the solution filtered to remove a small amount of a black insoluble material. The light-brown filtrate was rotary evaporated to yield 4.6 g of a tan solid. The solid was taken up in 30 mL of methyl tert-butyl ether, heated to effect a slightly turbid solution and filtered hot. The filtrate was re-heated to effect solution again and heptane (about 10-15 mL) was slowly added. The solution was placed on a rotary evaporator and the solvent was slowly removed under reduced pressure. When the first sign of solid was noted, the vacuum was broken and the mixture was allowed to slowly rotate at 40° C. to effect precipitation of solid. The solid was collected by vacuum filtration to give 3.4 g (77% yield) of a light tan solid, mp=119-121° C. 1H NMR (600 MHz, DMSO-d6) δ 9.41 (s, 1H), 8.10-8.05 (m, 4H), 7.60 (d, J=8.7 Hz, 2H), 7.38 (dd, J=8.3, 1.6 Hz, 2H). 13C NMR (151 MHz, DMSO) δ 161.77, 146.66, 144.37, 136.23, 134.45, 128.26, 127.78, 125.91, 124.93, 123.57, 121.59.

reactant | 4-(1-(4-(perfluoroethoxy)-phenyl)-1H-1,2,4-triazol-3-yl)benzoyl azide | 11.2 mmol, 5.00 g | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C(=O)N=[N+]=[N-])C=C1)F | C17H9F5N6O2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | isocyanate | [N-]=C=O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4-isocyanatophenyl)-1-(4-(perfluoroethoxy)-phenyl)-1H-1,2,4-triazole | 4.6 g | N(=C=O)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(C(F)(F)F)(F)F | C17H9F5N4O2
